US05081246
N-tert-Butoxycarbonyl-o-(2-methoxyethoxymethyl)tyrosine methyl ester
13.39 g of N-tert-butoxycarbonyltyrosine methyl ester was dissolved in 65 ml of tetrahydrofuran and 65 ml of dimethylformamide, and to the solution was added 1.9 g of 60% sodium hydride with stirring in an ice bath. After removing from the ice bath, the mixture was stirred at a room temperature for 30 minutes, and after addition of 5.4 g of methoxyethoxymethyl chloride with ice cooling, stirred for 15 hours allowing to warm to a room temperature. The reaction mixture was poured on ice, saturated with sodium chloride and extracted twice with 800 ml of chloroform. The extract was dried over magnesium sulfate and the solvent was evaporated under a reduced pressure, and resulting residue was applied to a silica gel column and eluted with hexane/ethyl acetate (4:1) to obtain 13.85 g of the title compound in a colorless amorphous form.

reactant | N-tert-butoxycarbonyltyrosine methyl ester | 13.39 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-o-(2-methoxyethoxymethyl)tyrosine methyl ester | 13.85 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=C(C=C(C=C1)O)COCCOC)=O | C19H29NO7
